US05972064
6.8 g of pyrazole were reacted with ethyl 3-chloropropionate as in Example 3 and processed further in a similar manner. 11.8 g ([lacuna] of theory) of 3-(N-pyrazolyl)propionic acid are obtained as a white powder of m.p. 70° C.

reactant | pyrazole | 6.8 g | N1N=CC=C1 | C3H4N2
reactant | ethyl 3-chloropropionate | ClCCC(=O)OCC | C5H9ClO2
product | 3-(N-pyrazolyl)propionic acid | 11.8 g | N1(N=CC=C1)CCC(=O)O | C6H8N2O2
